US07521457B2
b) 2-(4-Acryloylamino-2-methoxy-phenylamino)-4-(2-(2-fluoro-ethyl)-1-methyl-3-oxo-2,3-dihydro-1H-isoindol-4-ylamino)-5-trifluoromethyl-pyrimidine
311 mg (0.634 mmol) 2-(4-amino-2-methoxy-phenylamino)-4-(2-(2-fluoro-ethyl)-1-methyl-3-oxo-2,3-dihydro-1H-isoindol-4-ylamino)-5-trifluoromethyl-pyrimidine are dissolved in 10 ml THF and combined with 115 μl (0.824 mmol) triethylamine and 62 μl (0.761 mmol) acrylic chloride. This mixture is stirred for 1 h at ambient temperature. Then it is diluted with ethyl acetate and extracted three times with water. The organic phase is dried with magnesium sulphate and the solvent is eliminated in vacuo.

reactant | 2-(4-amino-2-methoxy-phenylamino)-4-(2-(2-fluoro-ethyl)-1-methyl-3-oxo-2,3-dihydro-1H-isoindol-4-ylamino)-5-trifluoromethyl-pyrimidine | 0.634 mmol, 311 mg | NC1=CC(=C(C=C1)NC1=NC=C(C(=N1)NC1=C2C(N(C(C2=CC=C1)C)CCF)=O)C(F)(F)F)OC | C23H22F4N6O2
reactant | triethylamine | 0.824 mmol, 115 μl | C(C)N(CC)CC | C6H15N
reactant | acrylic chloride | 0.761 mmol, 62 μl | C(C=C)(=O)Cl | C3H3ClO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-Acryloylamino-2-methoxy-phenylamino)-4-(2-(2-fluoro-ethyl)-1-methyl-3-oxo-2,3-dihydro-1H-isoindol-4-ylamino)-5-trifluoromethyl-pyrimidine | C(C=C)(=O)NC1=CC(=C(C=C1)NC1=NC=C(C(=N1)NC1=C2C(N(C(C2=CC=C1)C)CCF)=O)C(F)(F)F)OC | C26H24F4N6O3
